US04775223
2.2 g of LiAlH4 was added to 80 ml of ether and the mixture was stirred for 5 hours. To the mixture was added dropwise 13.6 g of (-)-ethyl-2-decyloxypropionate in the same manner as in Example 7, and themixture was stirred for 15 minutes. Then, 50 ml of water and further 50 ml of 5% H2SO4 aqueous solution were added thereto. The ether layer was separated, dried with MgSO4 and filtrated. Ether was distilled off and the residue was subjected to distillation under reduced pressure, whereby 6.9 g of (+)-2-decyloxypropanol was obtained by collecting a fraction of 94°-96° C./1 mmHg.

reactant | LiAlH4 | 2.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | (-)-ethyl-2-decyloxypropionate | 13.6 g | C(C)OC(C(C)OCCCCCCCCCC)=O | C15H30O3
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | water | 50 ml | O | H2O
product | (+)-2-decyloxypropanol | 6.9 g | C(CCCCCCCCC)OC(CO)C | C13H28O2
